US06010981
2. Preparation of 1-(1,1-Dimethylethyl)-5-hydroxy-4-(3-iodo-2-methyl-4-methylsulfonylbenzoyl)pyrazole
A solution of 8.4 9 (40 mmol) of 1,3-dicyclohexylcarbodiimide in 40 mL of acetonitrile was added to a mixture of 13.6 g (40 mmol) of 3-iodo-2-methyl-4-methylsulfonylbenzoic acid and 5.6 g (40 mmol) of 1-(1,1-dimethylethyl)-5-hydroxypyrazole in 80 mL of acetonitrile with stirring. The mixture was allowed to stir for 1 hour and was then filtered, washing the filter cake with a little acetonitrile. Triethylamine (16.8 mL, 120 mmol) and acetone cyanohydrin (1 mL, 10 mmol) were added with stirring to the filtrate. After about 1.5 hour, dichloromethane was added and the resulting mixture was washed with a mixture of 2N aqueous hydrochloric acid and saturated aqueous sodium chloride. It was then concentrated by evaporation under reduced pressure. The residue obtained was dissolved in dichloromethane and the resulting solution was extracted with dilute aqueous sodium hydroxide. The aqueous extract was acidified with concentrated aqueous hydrochloric acid and the resulting mixture was extracted with dichloromethane. Fifty mL of triethylamine was added to the dichloromethane extract and the resulting solution was washed with saturated aqueous sodium chloride solution and then several times with 2N aqueous hydrochloric acid. It was then concentrated by evaporation under reduced pressure. The residue was triturated with hexane to obtain 16.8 g (72.7 percent of theory of the title compound as a light yellow powder melting at 171-172° C.

reactant | 1,3-dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 3-iodo-2-methyl-4-methylsulfonylbenzoic acid | 40 mmol, 13.6 g | IC=1C(=C(C(=O)O)C=CC1S(=O)(=O)C)C | C9H9IO4S
reactant | 1-(1,1-dimethylethyl)-5-hydroxypyrazole | 40 mmol, 5.6 g | CC(C)(C)N1N=CC=C1O | C7H12N2O
reactant | Triethylamine | 120 mmol, 16.8 mL | C(C)N(CC)CC | C6H15N
reactant | acetone cyanohydrin | 10 mmol, 1 mL | CC(C#N)(O)C | C4H7NO
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
solvent | acetonitrile | 80 mL | C(C)#N | C2H3N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(1,1-Dimethylethyl)-5-hydroxy-4-(3-iodo-2-methyl-4-methylsulfonylbenzoyl)pyrazole | CC(C)(C)N1N=CC(=C1O)C(C1=C(C(=C(C=C1)S(=O)(=O)C)I)C)=O | C16H19IN2O4S
